* H:\Mon Drive\2025-2026_polytech_sorbonne\S6\UE-Electronique\Composants_et_circuit_microelectrique\TP_conception_micro_electronique\Sujet_TP_YEK\Simulation\Simu_E\Simu_E.asc
* Generated by LTspice 26.0.1 for Windows.
Rd V+ Vds 846
Cc2 Vo Vds 47µ
RL Vo 0 10k
Cs 0 N002 47µ
M1 Vds Vgs N002 N002 NMOS_CD4007
Rs N002 V- 3.6k
Rg Vgs 0 10k
Cc1 Vgs N001 47µ
Rsig N001 Vsig 50
Vsig Vsig 0 SINE(0 5m 1k)
V1 V+ 0 15V
V2 0 V- 15V
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\elkat\AppData\Local\LTspice\lib\cmp\standard.mos
.MODEL NMOS_CD4007 NMOS (LEVEL=7
+VERSION=3.1 CAPMOD=2 MOBMOD=1
+TOX=6E-8 XJ=2.9E-7 NCH=4E15 NSUB=5.33E15 XT=8.66E-8
+VTH0=1.4 U0= 925 WINT=2.0E-7 LINT=1E-7
+NGATE=5E20 RSH=200 JS=3.23E-8 JSW=3.23E-8 CJ=6.8E-8 MJ=0.5 PB=0.95
+CJSW=1.26E-10 MJSW=0.5 PBSW=0.95 PCLM=5
+CGSO=3.4E-10 CGDO=3.4E-10 CGBO=5.75E-10)
.MODEL PMOS_CD4007 PMOS (LEVEL=7
+VERSION=3.1 CAPMOD=2 MOBMOD=1
+TOX=6E-8 XJ=2.26E-7 NCH=3E15 NSUB=8E14 XT=8.66E-8
+VTH0=-1.65 U0= 225 WINT=1.0E-6 LINT=1E-6
+NGATE=5E20 RSH=800 JS=3.51E-8 JSW=3.51E-8 CJ=5.28E-8 MJ=0.5 PB=0.94
+CJSW=1.19E-10 MJSW=0.5 PBSW=0.94 PCLM=5
+CGSO=4.5E-10 CGDO=4.5E-10 CGBO=5.75E-10)
.tran 5m
.backanno
.end
